### PR TITLE
bounded sequences

### PR DESCRIPTION
**Pull request by eupp**
##### Motivation for this change

This PR introduces a type of bounded sequences `n.-bseq T` inhabited by sequences of size smaller than `n`. 
An implementation is taken from [infotheo](https://github.com/affeldt-aist/infotheo/blob/d0f3faeed2d008f888f337b4ce3c3eea489ece84/lib/ssr_ext.v#L708) and refactored to have a similar interface as `n.-tuple T`. 

Bounded sequences are used in [infotheo](https://github.com/affeldt-aist/infotheo) and [monae](https://github.com/affeldt-aist/monae), but may be of more general interest. 

This is a part of https://github.com/affeldt-aist/monae/issues/56 which aim is to decouple several mathcomp-style libraries and reduce unnecessary dependencies. 

cc @affeldt-aist 

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/tuple.v [hunk 1]
```diff
@@ -436,3 +436,225 @@ Notation "[ 'tuple' F | i < n ]" := (mktuple (fun i : 'I_n => F))
...
+  (at level 0, format "[ 'bseq' '['  x1 ; '/'  .. ; '/'  xn ']' ]")
+  : form_scope.
+
+Notation "[ 'bseq' ]" := [bseq of [::]]
+  (at level 0, format "[ 'bseq' ]") : form_scope.
+
+Definition bseq_of_seq n T (s : seq T) : n.-bseq T :=
+  match (size s <= n) =P true with
+    ReflectT H => Bseq H | ReflectF _ => [bseq]
+  end.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:491]:
```suggestion
Definition bseq_of_seq n T (s : seq T) : n.-bseq T := insubd [bseq] s.
```

File: mathcomp/ssreflect/tuple.v [hunk 2]
```diff
@@ -436,3 +436,225 @@ Notation "[ 'tuple' F | i < n ]" := (mktuple (fun i : 'I_n => F))
...
+case: eqP=> //.
+move=> ? _ [] H; move: sl. 
+by rewrite H size_tuple /leq subSnn. 
+Qed.
+
+End FinBseq.
+End FinBseq.
+
+Definition bseq_finMixin n (T : finType) := 
+  Eval hnf in FinMixin (@FinBseq.enumP n T).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:653]: This can be replaced by an encoding to tagged tuples:
```suggestion
Definition bseq_sig_tuple {n T} (s : n.-bseq T) : {k : 'I_n.+1 & k.-tuple T} :=
  Tagged _ (in_tuple s : (Ordinal (size_bseq s : size s < n.+1)).-tuple _).

Definition sig_tuple_bseq {n T} (t : {k : 'I_n.+1 & k.-tuple T}) : n.-bseq T :=
  widen_bseq (leq_ord (tag t)) (tagged t).
  
Lemma bseq_sig_tupleK n T : cancel (@bseq_sig_tuple n T) sig_tuple_bseq.
Proof. by move=> t; apply/val_inj. Qed.

Definition bseq_finMixin n (T : finType) :=
  CanFinMixin (@bseq_sig_tupleK n T).
```

File: mathcomp/ssreflect/tuple.v [hunk 3]
```diff
@@ -436,3 +436,225 @@ Notation "[ 'tuple' F | i < n ]" := (mktuple (fun i : 'I_n => F))
...
+    ReflectT H => Bseq H | ReflectF _ => [bseq]
+  end.
+
+Definition bseq_of_tuple n T (t : n.-tuple T) : n.-bseq T :=
+  Bseq (eq_leq (size_tuple t)).
+
+Coercion bseq_of_tuple : tuple_of >-> bseq_of.
+
+Definition widen_bseq n m T (le_n_m : n <= m) (bs : n.-bseq T) : m.-bseq T := 
+  @Bseq m T bs (leq_trans (size_bseq bs) le_n_m).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:499]: Add some theory of `widen_bseq`:
```suggestion

Definition widen_bseq m n T (lemn : m <= n) (bs : m.-bseq T) : n.-bseq T := 
  @Bseq n T bs (leq_trans (size_bseq bs) lemn).

Lemma widen_bseq_id n T (lenn : n <= n) (t : n.-bseq T) : widen_bseq lenn t = t.
Proof. exact: val_inj. Qed.

Lemma widen_bseqK m n T (lemn : m <= n) (lenm : n <= m) :
   cancel (@widen_bseq m n T lemn) (widen_bseq lenm).
Proof. by move=> t; apply: val_inj. Qed.

Lemma widen_bseq_trans m n p T (lemn : m <= n) (lenp : n <= p) (t : m.-bseq T) :
  widen_bseq (leq_trans lemn lenp) t = widen_bseq lenp (widen_bseq lemn t).
Proof. exact/val_inj. Qed.

Definition in_bseq T (s : seq T) : (size s).-bseq T := Bseq (leqnn (size s)).

Lemma in_nseqE T s : in_bseq s = s :> seq T. Proof. by []. Qed.

Lemma widen_bseq_in_bseq n T (t : n.-bseq T) :
  widen_bseq (size_bseq t) (in_bseq t) = t.
Proof. exact: val_inj. Qed.
```

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Thanks for your contribution, I think this would very useful indeed!

As of now, I think some of theory is still missing: e.g. the cardinality of `n.-bseq T` for a finite type `T`, which can easily be obtained using the bijection with `{k : 'I_n.+1 & k.-tuple T})` and lemma `card_tagged`. For the sake of completeness, I would go through every single lemma for `tuple` and see if it would make sense for `bseq`.

File: mathcomp/ssreflect/tuple.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/tuple.v:491]: Not sure how useful this is though. If there is no lemmas / theorems about it, maybe it should just be removed.

**Comment by eupp** [comment]
@CohenCyril thank you for the thoughtful review. 

I've added `card_bseq` lemma. The proof of this lemma utilizes injectivity of `bseq_tagged_tuple` and `tagged_tuple_bseq`. 
The proof of infectivity for `tagged_tuple_bseq` is a bit clumsy because of dependent pairs' trickery and might be a subject to simplification. 

Regarding the usefulness of `bseq_of_seq`. I took it from `infotheo`, so it is better to ask @affeldt-aist whether we should keep it. 
Nevertheless, I've added lemma `size_bseq_of_seq : size (bseq_of_seq n s) <= size s.`

I've rechecked other lemmas for `n.-tuple T`. It looks like these lemmas are mostly about `thead`, `tnth`, etc. 
These definitions do not have equivalents for `n.-bseq T`, because bounded sequences have weaker guarantees on the length of sequences, in particular, they do not guarantee non-emptiness.

I've also updated the docs and changelog.

**Review by CohenCyril — APPROVED** [review]

File: CHANGELOG_UNRELEASED.md [hunk 4]
```diff
@@ -10,7 +10,8 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
 
 ### Added
 
-- in `bigop.v`, added lemmas `sumnB` and `card_bseq`.
+- in `bigop.v`, added lemma `sumnB`.
+- in `bigop.v`, added lemma `card_bseq`.
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md]: @affeldt-aist  why?

File: mathcomp/ssreflect/tuple.v [hunk 5]
```diff
@@ -565,69 +564,68 @@ End CastBseq.
 Section SeqBseq.
 
 Variables (n m : nat) (T U rT : Type).
-Implicit Type bs : n.-bseq T.
+Implicit Type s : n.-bseq T.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v]: I think it's healthy to distinguish between sequences and bounded sequences through the variable name.

File: mathcomp/ssreflect/tuple.v [hunk 6]
```diff
@@ -658,18 +656,22 @@ Canonical bseq_countType n (T : countType) :=
 Canonical bseq_subCountType n (T : countType) :=
   Eval hnf in [subCountType of n.-bseq T].
 
-Definition bseq_tagged_tuple {n T} (s : n.-bseq T) : {k : 'I_n.+1 & k.-tuple T} :=
+Definition bseq_tagged_tuple n T (s : n.-bseq T) : {k : 'I_n.+1 & k.-tuple T} :=
   Tagged _ (in_tuple s : (Ordinal (size_bseq s : size s < n.+1)).-tuple _).
+Arguments bseq_tagged_tuple {n T}.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:661]: Why are you suggesting to use `Arguments` rather than `{}` inside the definition?

File: mathcomp/ssreflect/tuple.v [hunk 7]
```diff
@@ -658,18 +656,22 @@ Canonical bseq_countType n (T : countType) :=
...
 
-Lemma tagged_tuple_bseqK {n T} : cancel (@tagged_tuple_bseq n T) bseq_tagged_tuple.
+Lemma tagged_tuple_bseqK {n T} :
+  cancel (@tagged_tuple_bseq n T) bseq_tagged_tuple.
 Proof.
-move=> [k t]; rewrite /tagged_tuple_bseq /bseq_tagged_tuple/=; symmetry.
+move=> [k t]; rewrite /bseq_tagged_tuple /=; symmetry.
 apply: eq_existT_curried => [|k_eq]; apply/val_inj; rewrite /= ?size_tuple//.
 by refine match k_eq in _ = y return
      match k_eq in _ = m return m.-tuple T with erefl => t end = t :> seq _
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v]: I am reluctant using `destruct`, I have an even shorter proof using refine that I will push soon.

File: CHANGELOG_UNRELEASED.md (hunk 4 above)
Comment (affeldt-aist) [reply CHANGELOG_UNRELEASED.md]: isn't it the "do not edit former entries" recommendation?

File: mathcomp/ssreflect/tuple.v (hunk 5 above)
Comment (affeldt-aist) [reply mathcomp/ssreflect/tuple.v]: so do I, but the shorter identifier in this section helps preserving the 80 characters limit

File: mathcomp/ssreflect/tuple.v (hunk 6 above)
Comment (affeldt-aist) [reply mathcomp/ssreflect/tuple.v:661]: this was also for the 80 characters limit

File: CHANGELOG_UNRELEASED.md (hunk 4 above)
Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md]: Yes, ok

File: mathcomp/ssreflect/tuple.v (hunk 5 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/tuple.v]: Ah, ok, maybe we can pick a single letter which is not `s`, though... like `w` for example? BTW, I am wondering if a good name for `bseq` could be `word`...

File: mathcomp/ssreflect/tuple.v [hunk 8]
```diff
@@ -436,3 +452,243 @@ Notation "[ 'tuple' F | i < n ]" := (mktuple (fun i : 'I_n => F))
...
+Lemma bseq_tagged_tupleK {n T} :
+  cancel (@bseq_tagged_tuple n T) tagged_tuple_bseq.
+Proof. by move=> bs; apply/val_inj. Qed.
+
+Lemma tagged_tuple_bseqK {n T} :
+  cancel (@tagged_tuple_bseq n T) bseq_tagged_tuple.
+Proof.
+move=> [[k lt_kn] t]; apply: eq_existT_curried => [|k_eq]; apply/val_inj.
+  by rewrite /= size_tuple.
+by refine (let: erefl := k_eq in _).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:676]: I find it interesting that unification with a trivial match on `k_eq` is smarter than `case: _ / k_eq`. The failure of the latter looks legit so me since the occurrence selection is non trivial. The fact that `destruct k_eq` works surprises me though... @gares If you have any insight on this, I'd like to know. Also I was wondering were we were wrt the automatic selection of unifiable occurences of an index, is it implemented for `destruct` and that would be why it works (or is it just an accident)?

Comment (gares) [reply mathcomp/ssreflect/tuple.v:680]: It is not an accident.
